US09315521B2
To a solution of (4-ethenyl-1,3-thiazol-5-yl)methanol (370 mg, 2.6 mmol) in anhydrous dichloromethane (20 mL) was added dropwise tribromophosphane (275 uL, 2.9 mmol). The mixture was stirred at room temperature for 3 hours. Dichloromethane was evaporated, and the residue was dried in vacuo to afford 5-(bromomethyl)-4-ethenyl-1,3-thiazole hydrobromide. The product was used without further purification.

reactant | (4-ethenyl-1,3-thiazol-5-yl)methanol | 2.6 mmol, 370 mg | C(=C)C=1N=CSC1CO | C6H7NOS
reactant | tribromophosphane | 2.9 mmol, 275 uL | BrP(Br)Br | Br3P
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-(bromomethyl)-4-ethenyl-1,3-thiazole hydrobromide | Br.BrCC1=C(N=CS1)C=C | InChI=1S/C6H6BrNS.BrH/c1-2-5-6(3-7)9-4-8-5;/h2,4H,1,3H2;1H
